US07935722B2
(6-Bromo-3-fluoro-pyridin-2-yl)-methanol
Slowly add n-Butyllithium (2.5 M in hexanes, 9.40 mL, 23.3 mmol) to a −78° C. solution of 2-bromo-5-fluoro-pyridine (3.42 g, 19.4 mmol) and diethyl ether (200 mL). Stir the reaction at −78° C. for 1 h, then add dimethylformamide (2.00 mL, 25.5 mmol) and continue stirring for an additional hour. Warm the reaction to room temperature and remove the solvent under vacuum. Dissolve the crude material in methanol (50 mL) and cool to 0° C. Add sodium borohydride.(1.47 g, 38.9 mmol) and allow the reaction is to slowly warm to room temperature over 12 h. Quench the reaction with saturated aqueous sodium bicarbonate (20 mL) then add ethyl acetate (100 mL). Separate the layers and dry the resultant organic layer with magnesium sulfate, filter, and concentrate under vacuum to give a yellow solid. Purify the crude solid by column chromatography (silica gel; 10% to 50% ethyl acetate in hexanes) to give 1.66 g (42%) of the title compound as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 7.50-7.40m, 1H), 7.35-7.25 (m, 1H), 4.80 (s, 2H), 3.30 (s, 1H).

reactant | n-Butyllithium | 23.3 mmol, 2.5 M, 9.40 mL | C(CCC)[Li]
reactant | 2-bromo-5-fluoro-pyridine | 19.4 mmol, 3.42 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | dimethylformamide | 25.5 mmol, 2.00 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (6-Bromo-3-fluoro-pyridin-2-yl)-methanol | 1.66 g, 42% | BrC1=CC=C(C(=N1)CO)F | C6H5BrFNO
